US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and p-tolylboronic acid to give (6-methoxy-1-p-tolyl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 331 (MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | p-tolylboronic acid | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
product | (6-methoxy-1-p-tolyl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)C1=CC=C(C=C1)C)NC1=NNC=C1 | C20H18N4O
